US06544985B2
{4-Chloro-5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester (Example J27) (500 mg, 1.53 mmol) and 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert-butyl ester (Example K25) (438 mg, 1.53 mmol) according to the general procedure M. Obtained as a light orange foam (700 mg, 85%).

reactant | [2-amino-4-chloro-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester | 1.53 mmol, 500 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)N)=O | C16H26ClN3O2
reactant | 3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionic acid tert-butyl ester | 1.53 mmol, 438 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O | C15H17N3O3
product | {4-Chloro-5-(isobutyl-methyl-amino)-2-[3-oxo-3-(3-[1,2,4]triazol-1-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)NC(CC(C1=CC(=CC=C1)N1N=CN=C1)=O)=O)=O | C27H33ClN6O4
